US05968985
n-Butyllithium in hexane (1.66M solution, 5.2 ml) was added dropwise to a solution of 3-bromo-2,5-dichlorothiophene (2.0 g) and triisopropoxyborane (2.4 ml) in ether (20.0 ml) at -75-65° C. for 10 minutes and the mixture was stirred at same temperature for 1 hour. The reaction mixture was poured onto 1N-hydrochloric acid (30 ml) and the mixture was extracted with ether. The separated extract layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo to give (2,5-dichlorothiophen-3-yl)-dihydroxyborane (1.13 g).

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 3-bromo-2,5-dichlorothiophene | 2.0 g | BrC1=C(SC(=C1)Cl)Cl | C4HBrCl2S
reactant | triisopropoxyborane | 2.4 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | hexane | 1.66M, 5.2 ml | CCCCCC | C6H14
solvent | ether | 20.0 ml | CCOCC | C4H10O
product | (2,5-dichlorothiophen-3-yl)-dihydroxyborane | 1.13 g | ClC=1SC(=CC1B(O)O)Cl | C4H3BCl2O2S
